US08012974B2
1-[(S)-1-(2,2-Dimethyl-propane-1-sulfonyl)-piperidin-3-yl]-3-[5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-urea (0.045 g, 0.086 mmol) was dissolved in 1M HCl in acetic acid (0.9 mL) and stirred at 60° C. After 1.5 hours the solvent was evaporated and the residue was dried under high vacuum. The remaining oil was taken up in MeOH:H2O:EtN 8:1:1 (0.9 mL) and ethylenediamine (0.029 mL, 0.429 mmol) was added. The yellow solution stirred at RT overnight. The solvent was evaporated and the residue was purified by SiO2 chromatography (8 g SiO2, DCM:MeOH 0 to 5% MeOH) to give 0.025 g of 1-[(S)-1-(2,2-dimethyl-propane-1-sulfonyl)-piperidin-3-yl]-3-(5H-pyrrolo[2,3-b]pyrazin-2-yl)-urea as an off-white solid (74% yield).

reactant | 1-[(S)-1-(2,2-Dimethyl-propane-1-sulfonyl)-piperidin-3-yl]-3-[5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-urea | 0.086 mmol, 0.045 g | CC(CS(=O)(=O)N1C[C@H](CCC1)NC(=O)NC=1N=C2C(=NC1)N(C=C2)COCC[Si](C)(C)C)(C)C | C23H40N6O4SSi
reactant | H2O | O | H2O
reactant | ethylenediamine | 0.429 mmol, 0.029 mL | C(CN)N | C2H8N2
solvent | HCl | 1M | Cl | ClH
solvent | acetic acid | 0.9 mL | C(C)(=O)O | C2H4O2
product | 1-[(S)-1-(2,2-dimethyl-propane-1-sulfonyl)-piperidin-3-yl]-3-(5H-pyrrolo[2,3-b]pyrazin-2-yl)-urea | 0.025 g, 74% yield | CC(CS(=O)(=O)N1C[C@H](CCC1)NC(=O)NC=1N=C2C(=NC1)NC=C2)(C)C | C17H26N6O3S
